US07589208B2
N-Ethyl-N-phenyl- 5-ethyl- 1,2-dihydro- 4-hydroxy- 1-methyl- 2-oxo- 3-quinolinecarboxamide zinc salt
N-Ethyl-N-phenyl- 5-ethyl- 1,2-dihydro- 4-hydroxy- 1-methyl- 2-oxo- 3-quinolinecarboxamide ( 1.0 g, 2.85 mmol) was dissolved in a mixture of 1M NaOH ( 2.95 mmol, 2.95 ml) and ethanol ( 6.0 ml). Chloroform ( 20 ml) and water ( 40 ml) were added followed by addition of zinc acetate dihydrate ( 3.0 mmol, 660 mg). The two-phase mixture was stirred vigorously for 10 min, the organic phase was separated and dried with sodium sulphate and the solvents were removed. The residue was recrystallised from methanol to give the title compound ( 823 mg, 76% yield). Anal. Calcd for C42H42N4O6Zn: C, 66.01; H, 5.54; N, 7.33. Found C, 65.4; H, 5.68; N, 7.29. EDTA-titriometric determination of zinc gave a content of 8.45% (theoretical content is 8.56%).

reactant | N-Ethyl-N-phenyl- 5-ethyl- 1,2-dihydro- 4-hydroxy- 1-methyl- 2-oxo- 3-quinolinecarboxamide | 2.85 mmol, 1.0 g | C(C)N(C(=O)C=1C(N(C2=CC=CC(=C2C1O)CC)C)=O)C1=CC=CC=C1 | C21H22N2O3
reactant | NaOH | 2.95 mmol, 1M, 2.95 ml | [OH-].[Na+]
reactant | Chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
reactant | zinc acetate dihydrate | 3.0 mmol, 660 mg | O.O.C(C)(=O)[O-].[Zn+2].C(C)(=O)[O-]
solvent | ethanol | 6.0 ml | C(C)O | C2H6O
solvent | water | 40 ml | O | H2O
product | N-Ethyl-N-phenyl- 5-ethyl- 1,2-dihydro- 4-hydroxy- 1-methyl- 2-oxo- 3-quinolinecarboxamide zinc salt | 823 mg, 76% yield | [Zn].C(C)N(C(=O)C=1C(N(C2=CC=CC(=C2C1O)CC)C)=O)C1=CC=CC=C1 | InChI=1S/C21H22N2O3.Zn/c1-4-14-10-9-13-16-17(14)19(24)18(20(25)22(16)3)21(26)23(5-2)15-11-7-6-8-12-15;/h6-13,24H,4-5H2,1-3H3;
